US08871756B2
To a solution of 1-(2-sulfanylphenyl)ethanone (6.40 g, 42.05 mmol) in ethanol (80 mL) was added an aqueous solution of potassium hydroxide (7.08 g, 126.14 mmol in 30 mL of water) and an aqueous solution of 2-bromoethanamine hydrobromide (9.48 g, 46.25 mmol in 30 mL of water). After being stirred at room temperature for 6 hours, the reaction mixture was concentrated in vacuo to remove most of ethanol and extracted with dichloromethane (60 mL×3). The combined organic layers were washed with brine (100 mL), dried over anhydrous sodium sulfate, and concentrated in vacuo. The residue was purified by flash column chromatography to give 5.92 g of 5-methyl-2,3-dihydro-1,4-benzothiazepine.

reactant | 1-(2-sulfanylphenyl)ethanone | 42.05 mmol, 6.40 g | SC1=C(C=CC=C1)C(C)=O | C8H8OS
reactant | potassium hydroxide | 126.14 mmol, 30 mL, 7.08 g | [OH-].[K+]
reactant | 2-bromoethanamine hydrobromide | 46.25 mmol, 30 mL, 9.48 g | Br.BrCCN
solvent | ethanol | 80 mL | C(C)O | C2H6O
product | 5-methyl-2,3-dihydro-1,4-benzothiazepine | 5.92 g | CC1=NCCSC2=C1C=CC=C2 | C10H11NS
